Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / E-Mycin / Sulfa (Sulfonamide Antibiotics) / 
Neurontin / Lipitor / Simvastatin / Lithium / Statins-Hmg-Coa 
Reductase Inhibitors / Levaquin in D5W
 
Attending: ___.
 
Chief Complaint:
Cellulitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F PMHx lipodermatosclerosis, chronic
venous stasis, recurrent L lower extremity cellulitis, prior 
cultures with sparse MSSA and sparse diphtheroids (___), most 
recently admitted ___ - ___ for cellulitis discharged 
home on IV vancomycin, completing course on ___ and 
transitioned to PO minocylcine, representing ___ with 
worsening lower extremity erythema requiring re-initiation of IV 
vancomcyin, subsequent cultures checked ___ showing moderate 
growth of enterobacter and sparse growth of psuedomonas, now s/p 
cessation of IV vancomycin and transition to suppressive 
minocycline 100mg BID on ___, now re-presenting with worsening 
lower extremity pain and erythema x several days.  5d prior to 
admission, patient called PCP's office reporting feeling tired, 
achy, low grade fever to 99.6. 3d prior to admission, patient 
was seen for an urgent care visit for fever to 102, headache, 
diarrhea, and cough, was felt to have the flu and was sent home 
on tamiflu.  Flu swab returned negative.  Patient reports 
symptoms resolved after 24 hours, however, she noticed new RIGHT 
lower extremity pain, located over her medial malleolus (NB: 
prior cellulitis had been over LEFT medial malleolus), 
associated with erythema spreading proximally and distally.  
.
In the ED, initial vs were 97.7 73 132/69 18 100% RA.  Exam was 
notable for lower extremity erythema.  Labs were remarkable for 
WBC 3.8, Cr 0.9, lactate 2.0, UA w 2 WBC few bacteria.  Patient 
was given IV cipro, vancomycin, and flagyl in addition to PO 
oxycodone and was admitted to medicine for further evaluation 
and management.  Vitals prior to transfer were 98.2 77 129/67 18 
99%.  Access was 20g left hand x1.  
  
On arrival to the floor, vital signs were 98.1 140/70 80 16 
98%RA 116.5kg.  Patient was comfortable and without complaint.  
Confirmed above story. 

 
Past Medical History:
1.  Chronic pancreatitis
2.  Iron deficiency anemia
3.  History of recurrent cellulitis
4.  History of venous stasis ulcers - currently has 2 small 
ulcers on her LLE 
5.  Lumbar spinal stenosis
6.  Posttraumatic stress disorder
7.  Depression
8.  History of suicide attempts
9.  Restless legs syndrome - The patient is on Mirapex for this.
10.  Glucose intolerance
11.  Vitamin B12 deficiency - The patient has monthly 
injections.
12.  Obesity
13.  Neuropathy
14.  Hypercholesterolemia
15.  Cervical myelopathy
16.  Vitamin D deficiency
17.  Pancreatic insufficiency
18.  History of DVT
19.  History of seizure - ___
20.  Osteoarthritis
21.  Urinary incontinence
22.  Eczema
23.  Diverticulitis
24.  Lipodermatosclerosis
25.  Pneumonia ___
26.  Strep viridans bacteremia - ___
27.  Osteopenia
.
PAST SURGICAL HISTORY:
1.  Status post L2 to L5 laminectomy
2.  Status post appendectomy
3.  Status post cholecystectomy
4.  Status post right wrist fusion for post-traumatic DJD
5.  Status post right knee arthroscopic surgery
6.  Status post right total knee replacement - ___
7.  Left cataract removal - ___
8.  Status post right shoulder arthroscopy, acromioplasty, 
rotator cuff repair, and biceps tenotomy - ___
 
Social History:
___
Family History:
Father: ___, deceased
Mother: ___, CHF, ___
Brother: COPD, deceased
Brother: CHF, deceased
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: 98.1 140/70 80 16 98%RA 116.5kg
General: Comfortable, no acute distress  
HEENT: PERRL, MMM, oropharynx clear  
Neck: supple, no JVD, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV:  Regular rate and rhythm, III/VI systolic murmur 
high-pitched loudest at ___; no rubs, gallops  
Abdomen: soft, obese non-tender, non-distended, naBS
Ext: L lower extremity w chronic venous stasis skin changes, 
indurated, brauny, w well-circumscribed ulcer over medial 
malleolus, c/d/i; R lower extremity w small ulcer over medial 
malleolus, warm-to-touch, with surrounding erythema extending 
5cm circumference.  2+ ___ pulses bilaterally, good distal cap 
refill; tenderness to palpation in calf.
Neuro: CN II-XII wnl, moving all extremities, sensation over 
lower extremities grossly intact

DISCHARGE PHYSICAL EXAM:  
Vitals: 98.1 60-62 ___ 18 97%RA
General: Comfortable, no acute distress  
HEENT: PERRL, MMM, oropharynx clear  
Neck: supple, no JVD, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV:  Regular rate and rhythm, II/VI systolic murmur high-pitched 
loudest at RUSB radiates to the carotids; no rubs, gallops  
Abdomen: soft, obese non-tender, non-distended, naBS
Ext: L lower extremity w chronic venous stasis skin changes, 
indurated, brauny, w well-circumscribed ulcer over medial 
malleolus, draining pus; R lower extremity w small ulcer over 
medial malleolus, warm-to-touch, with surrounding erythema 
extending 5cm circumference.  Interval improvement. 2+ ___ pulses 
bilaterally, good distal cap refill;
Neuro: CN II-XII wnl, moving all extremities, sensation over 
lower extremities grossly intact

 
Pertinent Results:
ADMISSION:
___ 05:45PM BLOOD WBC-3.8* RBC-4.31 Hgb-11.9* Hct-37.2 
MCV-86 MCH-27.7 MCHC-32.1 RDW-15.5 Plt ___
___ 05:45PM BLOOD Neuts-66.5 ___ Monos-7.2 Eos-2.6 
Baso-0.7
___ 07:30AM BLOOD ESR-39*
___ 05:45PM BLOOD Glucose-110* UreaN-19 Creat-0.9 Na-139 
K-4.1 Cl-100 HCO3-28 AnGap-15
___ 07:30AM BLOOD Calcium-8.4 Phos-3.5 Mg-1.8
___ 07:30AM BLOOD CRP-21.7*
___ 07:19PM BLOOD Lactate-2.0

___ 07:10PM URINE Color-Yellow Appear-Clear Sp ___
___ 07:10PM URINE Blood-TR Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-SM 
___ 07:10PM URINE RBC-2 WBC-2 Bacteri-FEW Yeast-NONE Epi-1

___ UCx: Ecoli 10,000-100,000
___ BCx: BCx pending

DISCHARGE: 
___ 07:20AM BLOOD WBC-3.7* RBC-4.23 Hgb-11.6* Hct-37.2 
MCV-88 MCH-27.4 MCHC-31.2 RDW-15.6* Plt ___
___ 07:20AM BLOOD Glucose-98 UreaN-14 Creat-0.8 Na-137 
K-4.2 Cl-99 HCO3-32 AnGap-10
___ 07:20AM BLOOD Calcium-9.1 Phos-3.0 Mg-2.___ with pmHx of venous stasis ulcers, multiople episodes of 
cellulitis, and Lipodermatosclerosis who presents with worsening 
Venous Stasis Ulcer of RLE and possible super-imposed infection. 


ACTIVE ISSUES:
#  Right Lower Extremity Erthema - pt w history of 
lipodermatosclerosis (chronic fibrosing condition), chronic 
venous stasis, and recurrent LEFT lower extremity cellulitis 
presenting now with new RIGHT lower extremity erythema and pain 
concerning for new infectious process vs stasis dermatitis in 
setting of venous ulcer; pt reports small ulcer there 
previously, likely predisposing to infection; given appearance 
of wound think DVT is unlikely; does not appear to be drug rash 
or other non-infectious dermatitis; patient is otherwise likely 
predisposed ___ underlying lipodermatosclerosis, chronic venous 
stasis. Medial malleolus is classic position for venous stasis 
ulcer, not clearly superinfected. Infectious symptoms could have 
been from viral URI as initially perceived. However, spreading 
erythema concerning for super-imposed infection. Patient 
improved on IV then PO antibiotics based on previous culture 
data with Dicloxacillin and Ciprofloxacin. Patient to have 
Vascular and Derm follow up as outpatient. 

# ?BM suppression: Patient with declining WBC count. Case 
discussed with ID. Felt to be likely ___ vancomycin. Improved 
when Vancomycin was d/c.

# Chronic Venous Stasis: Continued lasix 20mg daily

# Itch: Hydroxyzine prn for itch

CHRONIC ISSUES:
# HTN: Continued metoprolol 

# Restless Leg Syndome: Continue Mirapex 

# B12 Deficiency: Hold IM injections while in-house

# GERD: Continue esomeprazole 

# Pancreatic Insufficiency: Continue creon 

# Asthmna: Cont prn albuterol

TRANSITIONAL ISSUES:
- F/u derm, vascular, geriatrics
- Finish PO antibiotics
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB 
2. Furosemide 20 mg PO DAILY 
3. Metoprolol Tartrate 25 mg PO BID 
4. Mirapex *NF* (pramipexole) 1.5 mg Oral BID 
5. Nystatin Ointment 1 Appl TP BID 
6. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN Pain 
7. Esomeprazole Magnesium *NF* 40 mg ORAL BID 
8. lipase-protease-amylase *NF* 6,000-19,000 -30,000 unit Oral 
TID with Meals 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB 
2. Furosemide 20 mg PO DAILY 
3. lipase-protease-amylase *NF* 6,000-19,000 -30,000 unit Oral 
TID with Meals 
4. Metoprolol Tartrate 25 mg PO BID 
5. Mirapex *NF* (pramipexole) 1.5 mg Oral BID 
6. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN Pain 
7. Ciprofloxacin HCl 500 mg PO Q12H Duration: 7 Days 
RX *ciprofloxacin [Cipro] 500 mg 1 tablet(s) by mouth twice 
daily Disp #*15 Tablet Refills:*0
8. DiCLOXacillin 500 mg PO Q6H Duration: 7 Days 
RX *dicloxacillin 500 mg 1 capsule(s) by mouth every 6 hours 
Disp #*30 Capsule Refills:*0
9. Esomeprazole Magnesium *NF* 40 mg ORAL BID 
10. Nystatin Ointment 1 Appl TP BID 
11. Outpatient Lab Work
CBC: ICD-9 289.89

Name: ___. 
Location: ___ OF GERONTOLOGY 
Address: ___, ___ 
Phone: ___ 
Fax: ___ 
Email: ___ 

12. Outpatient Lab Work
CBC: ICD-9 289.89

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Lipodermatosclerosis
Venous stasis ulcer
Cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the ___ 
with ulcers and infection in your right leg. You were treated 
with IV antibiotics and then transitioned to PO antibiotics and 
continued to do well. You will continue to have to take 
antibiotics at home. 

You had a decrease in your cell counts which was thought to be 
due to a certain medication you are no longer receiving. You 
should have a blood draw on ___ to ensure that your counts 
are continuing to recover.

You should also follow up with infectious disease, dermatology, 
vascular surgery, and your primary care doctor ___ listed 
below) as your complicated condition requires a 
multi-disciplinary approach. 
 
Followup Instructions:
___